US09282744B2
85% Benziothiazolinone.Dimethomorph Water Dispersible Granule
2% benziothiazolinone, 83% dimethomorph, 1% ammonium sulfate, 2% alginate, 1% sodium methyl naphthalene sulfonate-formaldehyde condensate, 1% organosilicone, complemented to 100% with bentonite.

reactant | dimethomorph | COC=1C=CC(=CC1OC)C(=CC(=O)N2CCOCC2)C=3C=CC(=CC3)Cl | C21H22ClNO4
reactant | ammonium sulfate | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
reactant | sodium methyl naphthalene sulfonate formaldehyde | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)OC.[Na].C=O
product | Dimethomorph Water | COC=1C=CC(=CC1OC)C(=CC(=O)N2CCOCC2)C=3C=CC(=CC3)Cl.O | InChI=1S/C21H22ClNO4.H2O/c1-25-19-8-5-16(13-20(19)26-2)18(15-3-6-17(22)7-4-15)14-21(24)23-9-11-27-12-10-23;/h3-8,13-14H,9-12H2,1-2H3;1H2
